US04294960
Ethyl 2-n-hexyloxyimino-4-chloro-3-oxobutyrate (syn isomer, 55.6 g.), thiourea (15.2 g.), sodium acetate 3-hydrate (27.2 g), ethanol (280 ml.) and water (140 ml.) were treated in a similar manner to that of Example F-(3) to give ethyl 2-(2-aminothiazol-4-yl)-2-n-hexyloxyiminoacetate (syn isomer, 29.3 g.) mp 77° to 78° C.

reactant | Ethyl 2-n-hexyloxyimino-4-chloro-3-oxobutyrate | 55.6 g | C(CCCCC)ON=C(C(=O)OCC)C(CCl)=O | C12H20ClNO4
reactant | thiourea | 15.2 g | NC(=S)N | CH4N2S
reactant | ethanol | 280 ml | C(C)O | C2H6O
solvent | water | 140 ml | O | H2O
product | ethyl 2-(2-aminothiazol-4-yl)-2-n-hexyloxyiminoacetate | 29.3 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCCCCCC | C13H21N3O3S
